US05015640
starting from ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate and 3,4-dimethoxybenzoyl chloride, there is obtained ethyl N-(3,4-dimethoxybenzoyl)-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate as a solid, mass spectrum m/e: M+ 430 (12), 401 (5), 194 (100), 165 (42);

reactant | ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCC)=N | C17H18N2O
reactant | 3,4-dimethoxybenzoyl chloride | COC=1C=C(C(=O)Cl)C=CC1OC | C9H9ClO3
product | ethyl N-(3,4-dimethoxybenzoyl)-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | COC=1C=C(C(=O)N=C(OCC)N2CC3=C(C4=C(C2)C=CC=C4)C=CC=C3)C=CC1OC | C26H26N2O4
